US07368424B2
Benzyl N-(tert-butoxycarbonyl)-D-leucyl-3-tert-butyl-L-alaninate
N-(tert-Butoxycarbonyl)-D-leucine (230 mg, 1.0 mmol) and benzyl-3-tert-butyl-L-alaninate hydrochloride (300 mg, 1.10 mmol) (John X. He, Wayne L. Cody, Annette M. Doherty, J. Org. Chem., 1995, 60, 8262-8266) are reacted by general procedure 6. The crude product is purified (workup method 2) by preparative HPLC (method 16), resulting in 362 mg (80% of theory) of product.

reactant | N-(tert-Butoxycarbonyl)-D-leucine | 1.0 mmol, 230 mg | C(C)(C)(C)OC(=O)N[C@H](CC(C)C)C(=O)O | C11H21NO4
reactant | benzyl-3-tert-butyl-L-alaninate hydrochloride | 1.10 mmol, 300 mg | Cl.C(C1=CC=CC=C1)OC([C@@H](N)CC(C)(C)C)=O
product | Benzyl N-(tert-butoxycarbonyl)-D-leucyl-3-tert-butyl-L-alaninate | C(C)(C)(C)OC(=O)N[C@H](CC(C)C)C(=O)N[C@@H](CC(C)(C)C)C(=O)OCC1=CC=CC=C1 | C25H40N2O5
